US07119205B2
Commercially available 1-(4-Methyl-thiophen-2-yl)-ethanone (2.0 g, 14.2 mmol) was combined with bis(trifluoroacetoxy)iodobenzene (6.3 g, 14.2 mmol) and iodine (3.6 g, 14.2 mmol) in CCl4 (30 ml). The purple suspension was stirred for 2 h upon which time the reaction was judged to be complete by HPLC. The reaction was diluted with CH2Cl2 and washed with Na2S2O3 (aq, sat.) until the purple color dissipated. The organics were washed with H2O and brine. The aqueous layers were extracted once with CH2Cl2 and the combined organics were dried (Na2SO4), filtered and concentrated by rotary evaporation to give a yellow residue which was purified by flash column chromatography (hexanes:ethyl acetate gradient 2–50% ethyl acetate) to give 1-(5-Iodo-4-methyl-thiophen-2-yl)-ethanone (2.5 g, 66%) as a solid; MS (ESI) m/z 266.9 (M+H+); 1H NMR (300 MHz, DMSO-d6) δ 7.65 (s, 1H), 2.47 (s, 3H), 2.19 (s, 3H).

reactant | 1-(4-Methyl-thiophen-2-yl)-ethanone | 14.2 mmol, 2.0 g | CC=1C=C(SC1)C(C)=O | C7H8OS
reactant | bis(trifluoroacetoxy)iodobenzene | 14.2 mmol, 6.3 g | FC(C(=O)OC=1C(=C(C=CC1)I)OC(C(F)(F)F)=O)(F)F | C10H3F6IO4
reactant | iodine | 14.2 mmol, 3.6 g | II | I2
solvent | CCl4 | 30 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 1-(5-Iodo-4-methyl-thiophen-2-yl)-ethanone | 2.5 g, 66% | IC1=C(C=C(S1)C(C)=O)C | C7H7IOS
